US05102667
A solution of 1,1-bis-(3-fluorophenyl)-2-methoxyethanol (156.7 g) (obtained by reaction of (3-fluorophenyl)magnesium bromide on methyl 2-methoxyacetate in THF) in formic acid (160 cc) is refluxed for 16 hours, cooled and poured into a mixture of saturated sodium carbonate solution (800 cc) and ethyl acetate (500 cc). The organic phase is washed with water (2×500 cc) and with saturated sodium chloride solution (500 cc) and then dried and concentrated to dryness under reduced pressure (2.7 kPa) to give bis-(3-fluorophenyl)acetaldehyde (144.5 g) in the form of a yellow oil.

reactant | 1,1-bis-(3-fluorophenyl)-2-methoxyethanol | 156.7 g | FC=1C=C(C=CC1)C(COC)(O)C1=CC(=CC=C1)F | C15H14F2O2
reactant | sodium carbonate | 800 cc | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 500 cc | C(C)(=O)OCC | C4H8O2
solvent | formic acid | 160 cc | C(=O)O | CH2O2
product | bis-(3-fluorophenyl)acetaldehyde | 144.5 g | FC=1C=C(C=CC1)C(C=O)C1=CC(=CC=C1)F | C14H10F2O
